US03962428
To a solution of 100 g. of 6,9,10-trimethyl-undeca-5,9-dien-2-one in 2,000 ml. of methylene chloride, there was added while cooling with ice, 100 g. of m-chloroperbenzoic acid. The resulting mixture was allowed to stand while constantly stirring at room temperature for 1 hour. The resulting mixture was diluted with 1,000 ml. of methylene chloride. The resulting solution was washed with ice-cold 1N sodium hydroxide solution and with a saturated sodium chloride solution, dried over sodium sulfate and evaporated. The residue was fractionally distilled under high vacuum. There was obtained 9,10-epoxy-6,9,10-trimethyl-undec-5-en-2-one; b.p. 89°-91°C./0.07 mmHg; nD20 = 1.4656.

reactant | 6,9,10-trimethyl-undeca-5,9-dien-2-one | CC(=CCCC(C)=O)CCC(=C(C)C)C | C14H24O
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 9,10-epoxy-6,9,10-trimethyl-undec-5-en-2-one | O1C(CCC(=CCCC(C)=O)C)(C1(C)C)C | C14H24O2
